US05260316
To a solution of 6-allyloxy-1-oxo-1,2,3,4-tetrahydroisoquinoline (10.6 g, 52 mmol) and 1-bromo-3-(4-fluorophenyl)-propane (17 g, 78 mmol) and KI (430 mg, 2.6 mmol) in dimethyl formamide (DMF) (125 mL) is added NaH (3.1 g, 78 mmol). After 4 hours the reaction mixture is poured into H2O (500 mL) and the resulting suspension is extracted with EtOAc (3×300 mL). The combined organic extracts are washed with H2O (5×200 mL), saturated NaCl solution (2×200 mL), dried over MgSO4 and concentrated in vacuo. The residue is chromatographed (silica gel, 1:1 EtOAc/hexane) to yield 2-[3-(4-fluorophenyl)-propyl]-6-allyloxy-1-oxo-1,2,3,4-tetrahydroisoquinoline as a brown oil.

reactant | 6-allyloxy-1-oxo-1,2,3,4-tetrahydroisoquinoline | 52 mmol, 10.6 g | C(C=C)OC=1C=C2CCNC(C2=CC1)=O | C12H13NO2
reactant | 1-bromo-3-(4-fluorophenyl)-propane | 78 mmol, 17 g | BrCCCC1=CC=C(C=C1)F | C9H10BrF
reactant | NaH | 78 mmol, 3.1 g | [H-].[Na+]
reactant | H2O | 500 mL | O | H2O
solvent | dimethyl formamide | 125 mL | CN(C=O)C | C3H7NO
product | 2-[3-(4-fluorophenyl)-propyl]-6-allyloxy-1-oxo-1,2,3,4-tetrahydroisoquinoline | FC1=CC=C(C=C1)CCCN1C(C2=CC=C(C=C2CC1)OCC=C)=O | C21H22FNO2
